US07071337B2
{1-[2-(5-Hydroxy-benzoimidazol-1-yl)-quinolin-8-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester
1-[8-(4-Amino-piperidin-1-yl)-quinolin-2-yl]-1 H-benzoimidazol-5-ol (460 mg, 1.30 mmol) was dissolved in 5 mL of anhydrous DMF under an atmosphere of dry N2. To this solution was added di-tert-butyldicarbonate (279 mg, 1.30 mmol) and the reaction mixture was stirred at ambient temperature overnight. The reaction mixture was then concentrated under vacuum and partitioned between DCM and aqueous saturated NaHCO3. The DCM layer was dried over Na2SO4, filtered and concentrated under vacuum to give a yellow solid. The solid was chromatographed on flash silica gel eluting with EtOAc to give 273 mg of H as a yellow solid.

reactant | 1-[8-(4-Amino-piperidin-1-yl)-quinolin-2-yl]-1 H-benzoimidazol-5-ol | 1.30 mmol, 460 mg | NC1CCN(CC1)C=1C=CC=C2C=CC(=NC12)N1C=NC2=C1C=CC(=C2)O | C21H21N5O
reactant | di-tert-butyldicarbonate | 1.30 mmol, 279 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | {1-[2-(5-Hydroxy-benzoimidazol-1-yl)-quinolin-8-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C=1C=CC=C2C=CC(=NC12)N1C=NC2=C1C=CC(=C2)O)=O | C26H29N5O3
